US04920136
5-Acetyl-2-amino-3-cyano-6-methyl-pyridine
40 g (0.21 mol) of 5-acetyl-2-chloro-3-cyano-6-methyl-pyridine are dissolved in 800 ml of tetrahydrofuran, 200 ml of concentrated aqueous NH3 solution are added, and the mixture is heated at 80° C. in a stirred autoclave for two hours. After cooling, the mixture is concentrated and filtered, and the filter cake is extracted by boiling in acetonitrile and is filtered with suction.

reactant | 5-acetyl-2-chloro-3-cyano-6-methyl-pyridine | 0.21 mol, 40 g | C(C)(=O)C=1C=C(C(=NC1C)Cl)C#N | C9H7ClN2O
reactant | NH3 | 200 ml | N | H3N
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | 5-Acetyl-2-amino-3-cyano-6-methyl-pyridine | C(C)(=O)C=1C=C(C(=NC1C)N)C#N | C9H9N3O
